US06498165B1
2-[(S)-1-(3-(2-phenylethylaminocarbonyl)phenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine
Made in the same manner as EXAMPLE 62 using 2-[(S)-1-(3-carboxyphenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine (37.2 mg), CH2Cl2 (2 mL), triethylamine (72 μL), phenethylamine (39 μL), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (58 mg) and 4-dimethylaminopyridine (˜1 mg). Run for 18 h then concentrated under reduced pressure and purified by silica gel chromatography (98:2 CH2Cl2:MeOH) to yield 21.6 mg of the title compound. 1H NMR (500 MHz, CDCl3 partial): δ 8.48 (br s, 1H); 8.40 (d, J=5.5 Hz, 1H); 7.84 (m, 2H); 7.56 (m, 2H); 7.42 (t, J=7.7 Hz, 1H); 6.80 (d, J=5.5 Hz,1H); 6.10 )br s, 1H); 5.69 (br s, 1H); 5.23 (br s, 1H); 3.72 (m, 2H); 2.94 (t, J=7.0 Hz, 2H); 1.65 (d, J=6.9 Hz, 3H). Mass Spectrum (ESI): m/e 463.2 (M+1).

reactant | 2-[(S)-1-(3-carboxyphenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 37.2 mg | C(=O)(O)C=1C=C(C=CC1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C20H17N5O2
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
reactant | phenethylamine | 39 μL | C(CC1=CC=CC=C1)N | C8H11N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 58 mg | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | ˜1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | 72 μL | C(C)N(CC)CC | C6H15N
product | 2-[(S)-1-(3-(2-phenylethylaminocarbonyl)phenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 21.6 mg | C1(=CC=CC=C1)CCNC(=O)C=1C=C(C=CC1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C28H26N6O
